US05015741
4-(3-Bromopropionyl)-1-piperazinecarboxaldehyde
A mixture of 15 ml of water and 25 ml of methylene chloride containing 3.0 g (36 mmole) of sodium bicarbonate and 2.82 g (24.7 mmole) of 1-piperazinecarboxaldehyde is stirred and treated with 5.0 g (30.9 mmole) of 3-bromopropionyl chloride in 10 ml of methylene chloride over a 15 minute period while maintaining a temperature of about 20° C. After stirring for an additional 20 minutes, the organic phase is separated and the aqueous phase is extracted with methylene chloride. The combined organic phases are drive (Na2SO4), filtered and concentrated under high vacuum to yield 4.35 g (70.2%) of product as a colorless solid: mp 96°-98° C.

reactant | water | 15 ml | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 1-piperazinecarboxaldehyde | 24.7 mmole, 2.82 g | N1(CCNCC1)C=O | C5H10N2O
reactant | 3-bromopropionyl chloride | 30.9 mmole, 5.0 g | BrCCC(=O)Cl | C3H4BrClO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 36 mmole, 25 ml, 3.0 g | C(Cl)Cl | CH2Cl2
product | 4-(3-Bromopropionyl)-1-piperazinecarboxaldehyde | 4.35 g, 70.2% | BrCCC(=O)N1CCN(CC1)C=O | C8H13BrN2O2
